US03998966
A mixture of 14.6 g. of 2-tetralone, 20 g. of p-fluorophenyl magnesium bromide, and 200 ml. of diethyl ether is stirred for four hours and then refluxed for one hour. The mixture is acidified with the addition of 200 ml. of 1N hydrochloric acid, filtered, and extracted with diethyl ether. The extracts are combined, washed with water to neutrality, filtered, dried and evaporated. The residue, containing 2-p-fluorophenyl-3,4-dihydronaphthalene is mixed with 25 g. of 5% palladium-on-charcoal catalyst; the resulting mixture is heated to 200° C for 6 hours, cooled, diluted with 250 ml. of chloroform, filtered, and evaporated to give 2-p-fluorophenylnaphthalene.

reactant | 2-tetralone | C1C(CCC2=CC=CC=C12)=O | C10H10O
reactant | p-fluorophenyl magnesium bromide | FC1=CC=C(C=C1)[Mg]Br
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-p-fluorophenylnaphthalene | FC1=CC=C(C=C1)C1=CC2=CC=CC=C2C=C1 | C16H11F
